US07598397B2
To a suspension of thiophene-2-sulfonic acid ((E)-3-1H-indol-7-yl-acryloyl)-amide I-4 (120 mg, 0.39 mmol) in acetic acid (glacial, 10 mL) was added sodium cyanoborohydride (95%, 150 mg, 2.5 mmol) portion wise at rt. The mixture which resulted was allowed to heat and stir at 70° C. for 4 h. The reaction mixture was cooled to 0° C. and the reaction was quenched with the addition of water (10 mL) at 0° C. The mixture was acidified with addition of aq HCl (10%) until PH=1, which was followed by extraction of CH2Cl2/MeOH (20:1, 3×30 mL). The combined organic layers were dried (Na2SO4) and the solvent was removed under reduced pressure to provide the crude product which was purified by flash chromatography (silica gel, EtOAc/hexane,=1:5-1:1) to afford desired indoline I-18 (80 mg, 65%) as a white solid. MS(ESI−)m/z=335.2. To a stirring solution of the indoline I-18 (37 mg, 0.11 mmol) in CH2Cl2 (7 mL) was added triethylamine (21 mg, 0.22 mmol) and then 2-naphthalenesulfonyl chloride (25 mg, 0.1 mmol) at 0° C. The mixture which resulted was allowed to warm to rt and stir at rt for 24 h. The reaction mixture was cooled to 0° C. then acidified with addition of aq HCl (10%) until PH=1, which was followed by extraction of CH2Cl2/MeOH (10:1, 3×20 mL). The combined organic layers were dried (Na2SO4) and the solvent was removed under reduced pressure to provide the crude product which was purified by flash chromatography (silica gel, EtOAc/hexane,=1:5-1:1) to afford desired product P045 (12 mg, 21%) as a light yellow solid. MS(ESI−)m/z=523.5, 100%), LCMS(ESI−)>70%. 1H NMR (500 MHz, CD3OD) 2.11 (t, J=8.0 Hz, 2H), 4.08 (t, J=8.0 Hz, 2H), 6.62 (d, J=16.0 Hz, 1H), 7.01 (dd, J=7.5, 1.0 Hz, 1H) 7.11 (dd, J=5.0, 4.0 Hz, 1H), 7.19 (dd, J=7.5, 7.5 Hz, 1H), 7.36 (dd, J=8.5, 2.0 Hz, 1H), 7.60 (m, 1H), 7.67 (m, 2H), 7.73 (dd, J=5.5, 1.5 Hz, 1H), 7.79 (dd, J=3.5, 0.5 Hz, 1H), 7.87 (m, 2H), 7.93 (d, J=8.5 Hz, 1H), 8.06 (s, 1H), 8.19 (d, J=16.0 Hz, 1H).

reactant | thiophene-2-sulfonic acid ((E)-3-1H-indol-7-yl-acryloyl)-amide | N1C=CC2=CC=CC(=C12)/C=C/C(=O)NS(=O)(=O)C=1SC=CC1 | C15H12N2O3S2
reactant | sodium cyanoborohydride | 2.5 mmol, 150 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | indoline | N1CCC2=CC=CC=C12 | C8H9N
